US05864039
3-(3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)propylamine (1.12 g) as starting compound was reacted and treated in the same manner as in Example 34 using methyl isocyanate (0.38 ml) and 4-amino-5-chloro-2-methoxybenzoic acid (0.96 g) to give 4-amino-5-chloro-2-methoxy-N-(1-(3-(3-methylureido)propyl)pyrrolidin-3-ylmethyl)-benzamide.

reactant | 3-(3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)propylamine | 1.12 g | C(C)(C)(C)OC(=O)NCC1CN(CC1)CCCN | C13H27N3O2
reactant | methyl isocyanate | 0.38 ml | CN=C=O | C2H3NO
reactant | 4-amino-5-chloro-2-methoxybenzoic acid | 0.96 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
product | 4-amino-5-chloro-2-methoxy-N-(1-(3-(3-methylureido)propyl)pyrrolidin-3-ylmethyl)-benzamide | NC1=CC(=C(C(=O)NCC2CN(CC2)CCCNC(=O)NC)C=C1Cl)OC | C18H28ClN5O3
